US07361763B2
To toluene-4-sulfonic acid 3-[3-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-phenyl ester (50 mg, 0.077 mmol), tri-ortho-tolylphosphine (10 mg, 0.031 mmol), palladium (II) acetate (2 mg, 0.0077 mmol) was added DMF (0.5 mL), triethylamine (32 uL, 0.232 mmol), and 2-vinylpyridine (42 uL, 0.388 mmol). The vial was flushed with nitrogen, and the reaction was run in a Personal Chemistry® microwave reactor at 150° C. for 900 s. Water was added and the mixture was neutralized to pH 6 with 1 N aqueous HCl, then extracted with EtOAc three times. The extracts were combined and concentrated in vacuo. The crude was treated with 1 mL of EtOH and 1 mL of aqueous KOH (50 wt %). The reaction mixture was stirred at 80° C. for 15 h. The mixture was neutralized to pH 7 with 1 N aqueous HCl, and the resulting precipitate was filtered, washed with water, dried in vacuo, and adsorbed on silica gel. Purification on silica gel with a gradient of MeOH/CH2Cl2 afforded 3-[3-(2-pyridin-2-yl-vinyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-phenol as a yellow solid (17 mg, 35% yield). 1H NMR (500 MHz, DMSO-d6) δ 6.78 (dd, J=2.0, 8.0 Hz, 1H), 7.13 (s, 1H), 7.15-7.20 (m, 2H), 7.26 (d, J=16.0 Hz, 1H), 7.29 (t, J=8.0 Hz, 1H), 7.57 (d, J=7.5 Hz, 1H), 7.73 (dt, J=2.0, 8.0 Hz, 1H), 7.90 (d, J=16.0 Hz, 1H), 7.93 (d, J=2.0 Hz, 1H), 8.50 (d, J=2.0 Hz, 1H), 8.52 (d, J=5.0 Hz, 1H), 8.54 (d, J=2.5 Hz, 1H), 9.56 (s, 1H), 12.1 (s, 1H). MS: m/z 314 (M+H+).

reactant | toluene-4-sulfonic acid 3-[3-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-phenyl ester | 0.077 mmol, 50 mg | IC1=CN(C2=NC=C(C=C21)C=2C=C(C=CC2)OS(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H21IN2O5S2
reactant | tri-ortho-tolylphosphine | 0.031 mmol, 10 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 0.232 mmol, 32 uL | C(C)N(CC)CC | C6H15N
reactant | 2-vinylpyridine | 0.388 mmol, 42 uL | C(=C)C1=NC=CC=C1 | C7H7N
catalyst | palladium (II) acetate | 0.0077 mmol, 2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-[3-(2-pyridin-2-yl-vinyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-phenol | 17 mg, 35% yield | N1=C(C=CC=C1)C=CC1=CNC2=NC=C(C=C21)C=2C=C(C=CC2)O | C20H15N3O
